US07777845B2
Dichloromethane/cyclohexanone/methanol/hexane (70/20/5/5, parts by mass)
Dichloromethane/methyl ethyl ketone/acetone/methano/ethanol (50/20/20/5/5, parts by mass)

reactant | Dichloromethane methyl ethyl ketone acetone | ClCCl.C(C)C(=O)C.CC(=O)C
solvent | ethanol | C(C)O | C2H6O
product | Dichloromethane cyclohexanone methanol hexane | ClCCl.C1(CCCCC1)=O.CO.CCCCCC | InChI=1S/C6H10O.C6H14.CH2Cl2.CH4O/c7-6-4-2-1-3-5-6;1-3-5-6-4-2;2-1-3;1-2/h1-5H2;3-6H2,1-2H3;1H2;2H,1H3
